US06346532B1
A 4N hydrogen chloride-ethyl acetate solution (10 ml) was added to 10 ml of an ethanolic solution of 458 mg of tert-butyl (R)-N-(2-hydroxy-2-phenylethyl)-N-[2-[4-[(2-pyridinecarbonyl)amino]phenyl]ethyl]carbamate. The reaction solution was stirred at room temperature for three hours, and the solvent was then evaporated in vacuo. The obtained crude crystals were recrystallized from methanol-ethanol-ethyl acetate to give 289 mg of (R)-4′-[2-[(2-hydroxy-2-phenyl-ethyl)amino]ethyl]-2-pyridinecarboxanilide dihydrochloride.

reactant | hydrogen chloride-ethyl acetate | 4N, 10 ml | C(C)(=O)OCC.Cl
reactant | tert-butyl (R)-N-(2-hydroxy-2-phenylethyl)-N-[2-[4-[(2-pyridinecarbonyl)amino]phenyl]ethyl]carbamate | 458 mg | O[C@@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1)C1=CC=CC=C1 | C27H31N3O4
product | (R)-4′-[2-[(2-hydroxy-2-phenyl-ethyl)amino]ethyl]-2-pyridinecarboxanilide dihydrochloride | 289 mg | Cl.Cl.O[C@@H](CNCCC1=CC=C(NC(=O)C2=NC=CC=C2)C=C1)C1=CC=CC=C1 | InChI=1S/C22H23N3O2.2ClH/c26-21(18-6-2-1-3-7-18)16-23-15-13-17-9-11-19(12-10-17)25-22(27)20-8-4-5-14-24-20;;/h1-12,14,21,23,26H,13,15-16H2,(H,25,27);2*1H/t21-;;/m0../s1
